US08022062B2
N-(tert-Butoxycarbonyl)-4-(1,3,3-trimethyl-butyl)-benzylamine:
Dissolve 4-(3,3-dimethyl-1-methylene-butyl)-benzonitrile (164 mg, 0.82 mmol) in methanol (15 mL). Add 10% Pd/C (Degussa type E101, 130 mg) and di-tert-butyl-dicarbonate (197 mg, 0.902 mmol). Submit the mixture to hydrogenation under atmospheric pressure (balloon) for 3 h. Filter the catalyst through Celite® and concentrate the filtrate in vacuo. Purify the crude mixture by chromatography on silica gel eluting with hexane and hexane/EtOAc (19:1, 9:1) to provide the desired intermediate as an oil (227 mg, 90%). MS (ES+) m/z: 328 (M+Na)+.

reactant | 4-(3,3-dimethyl-1-methylene-butyl)-benzonitrile | 0.82 mmol, 164 mg | CC(CC(=C)C1=CC=C(C#N)C=C1)(C)C | C14H17N
reactant | di-tert-butyl-dicarbonate | 0.902 mmol, 197 mg | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | methanol | 15 mL | CO | CH4O
catalyst | Pd/C | 130 mg | [Pd] | Pd
product | N-(tert-Butoxycarbonyl)-4-(1,3,3-trimethyl-butyl)-benzylamine | 227 mg, 90% | C(C)(C)(C)OC(=O)NCC1=CC=C(C=C1)C(CC(C)(C)C)C | C19H31NO2
